US07405236B2
e] [6-({Methyl-[5-(4-trifluoromethyl-phenyl)-pent-4-ynoyl]-amino}-methyl)-indol-1-yl]-acetic acid
In analogy to the procedure described in example 8 d], (6-{[5-(4-trifluoromethyl-phenyl)-pent-4-ynoylamino]-methyl}-indol-1-yl)-acetic acid ethyl ester was reacted with methyl iodide in the presence of sodium hydride to give the title compound as yellow foam.

reactant | (6-{[5-(4-trifluoromethyl-phenyl)-pent-4-ynoylamino]-methyl}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)CNC(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H23F3N2O3
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | [6-({Methyl-[5-(4-trifluoromethyl-phenyl)-pent-4-ynoyl]-amino}-methyl)-indol-1-yl]-acetic acid | CN(C(CCC#CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C2C=CN(C2=C1)CC(=O)O | C24H21F3N2O3
